US08106190B2
HATU (220 mg) and triethylamine (0.08 mL) were added to a dichloroethane (10 mL) solution of 4-tert-butyl-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoic acid (200 mg) and 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one (102 mg), followed by stirring at room temperature for 12 hours. A 1 M sodium hydroxide aqueous solution was added to the reaction liquid, followed by extraction with chloroform. After drying of the organic layer, the solution was concentrated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform:methanol, 95:5). By adding fumaric acid (22 mg) to an ethyl acetate solution of the resulting free base, 4-tert-butyl-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzamide fumarate (190 mg) was obtained as a solid.

reactant | HATU | 220 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
reactant | 4-tert-butyl-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoic acid | 200 mg | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C21H32N2O2
reactant | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 102 mg | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
product | 4-tert-butyl-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzamide fumarate | 190 mg | C(\C=C\C(=O)O)(=O)O.C(C)(C)(C)C1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | InChI=1S/C31H42N4O2.C4H4O4/c1-31(2,3)22-13-15-24(26(19-22)33-25-9-5-6-10-27(25)35-17-7-8-18-35)30(37)32-23-14-11-21-12-16-29(36)34(4)28(21)20-23;5-3(6)1-2-4(7)8/h11,13-15,19-20,25,27,33H,5-10,12,16-18H2,1-4H3,(H,32,37);1-2H,(H,5,6)(H,7,8)/b;2-1+/t25-,27-;/m0./s1
